### PR TITLE
[Merged by Bors] - feat(Padics): add an instance `IsValuativeTopology ℚ_[p]`

### PR DESCRIPTION
**Pull request by WenrongZou**
In this PR, we prove an instance `IsValuativeTopology ℚ_[p]`. Then we have the instance `IsNonarchimedeanLocalField ℚ_[p]`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by pechersky** [comment]
Perhaps we should wait for the general result for a NontriviallyNormedField first?

**Comment by MichaelStollBayreuth** [comment]
Could somebody who is/was involved in the valuation theory refactor take over the assignment? @faenuccio ? @riccardobrasca ? I know basically nothing about the details, so I'll unassign myself.

File: Mathlib/NumberTheory/Padics/PadicNumbers.lean [hunk 1]
```diff
@@ -1198,6 +1198,19 @@ lemma norm_eq_zpow_log_mulValuation {x : ℚ_[p]} (hx : x ≠ 0) :
...
 
+lemma norm_lt_zpow_iff_mulValuation_lt_exp {x : ℚ_[p]} {m : ℤ} :
+    ‖x‖ < (p : ℝ) ^ m ↔ mulValuation x < exp m := by
+  have h1p : (1 : ℝ) < p := mod_cast hp.out.one_lt
+  by_cases hx : x = 0
+  · simpa [hx] using zpow_pos (by positivity) m
+  · rw [norm_eq_zpow_neg_valuation hx, zpow_lt_zpow_iff_right₀ h1p, mulValuation_toFun,
+      ite_eq_right hx, exp_lt_exp]
+
+lemma norm_lt_norm_iff_mulValuation_lt {x y : ℚ_[p]} (hy : y ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/PadicNumbers.lean]:
```suggestion
lemma norm_lt_norm_iff_mulValuation_lt {x y : ℚ_[p]} :
```
This is not needed.

**Review by riccardobrasca — COMMENTED** [review]
Can you check `IsNonarchimedeanLocalField ℚ_[p]` is actually synthesized?

**Comment by WenrongZou** [comment]
Thanks for your review! I have tested that `IsNonarchimedeanLocalField ℚ_[p]` can be synthesized with two more imports
```lean4
public import Mathlib.NumberTheory.LocalField.Basic
public import Mathlib.NumberTheory.Padics.ProperSpace
```
But I don't think we should add these two imports in the file `Padic/ValuativeRel.lean`. Should I add a file record the result of `IsNonarchimedeanLocalField ℚ_[p]` with necessary import. @riccardobrasca

**Comment by riccardobrasca** [comment]
> Thanks for your review! I have tested that `IsNonarchimedeanLocalField ℚ_[p]` can be synthesized with two more imports
> 
> ```lean4
> public import Mathlib.NumberTheory.LocalField.Basic
> public import Mathlib.NumberTheory.Padics.ProperSpace
> ```
> 
> But I don't think we should add these two imports in the file `Padic/ValuativeRel.lean`. Should I add a file record the result of `IsNonarchimedeanLocalField ℚ_[p]` with necessary import. @riccardobrasca

OK good. Maybe add a comment explaining this.

**Comment by WenrongZou** [comment]
I add a comment in the beginning of the file to explain the instance `IsNonarchimedeanLocalField ℚ_[p]`.

File: Mathlib/NumberTheory/Padics/LocalField.lean [hunk 2]
```diff
@@ -0,0 +1,24 @@
...
+
+/-!
+# `ℚ_[p]` is a non-archimedean local field
+
+This file records the instance `IsNonarchimedeanLocalField ℚ_[p]`.
+-/
+
+public section
+
+variable {p : ℕ} [hp : Fact p.Prime]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/LocalField.lean]:
```suggestion
variable {p : ℕ} [Fact p.Prime]
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by WenrongZou** [comment]
Thanks! 

bors r+

File: Mathlib/NumberTheory/Padics/LocalField.lean [hunk 3]
```diff
@@ -0,0 +1,24 @@
...
+public import Mathlib.NumberTheory.Padics.ProperSpace
+public import Mathlib.NumberTheory.Padics.ValuativeRel
+
+/-!
+# `ℚ_[p]` is a non-archimedean local field
+
+This file records the instance `IsNonarchimedeanLocalField ℚ_[p]`.
+-/
+
+public section
```
Comment (WenrongZou) [inline Mathlib/NumberTheory/Padics/LocalField.lean:18]: I wonder it should be `public section` or `@[expose] public section`. Thanks in advance for your explanation. @riccardobrasca

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Padics/LocalField.lean:18]: `IsNonarchimedeanLocalField` is a `Prop` so it's proof doesn't really matter (I think it's automatically not exposed).

Comment (faenuccio) [reply Mathlib/NumberTheory/Padics/LocalField.lean:18]: But it's better to avoid the `@[expose]` if not needed, which is not in this case.

**Comment by WenrongZou** [comment]
Thanks! 

bors r+
